US07947676B2
2-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol
A suspension of N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (500 mg, 2.24 mmol) and 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (564 mg, 2.24 mmol) in acetic acid (2.5 ml) was heated under microwave at 150° C. for 2 minutes. The crude mixture was diluted with diethyl ether and the precipitated solid was filtered, rinsed with ether and dried under vacuum to give the title compound as a white solid (675 mg, 70%); NMR spectrum: 3.79 (t, 2H), 4.31 (t, 2H), 5.26 (s, 2H), 7.18 (t, 1H), 7.25 (d, 1H), 7.29-7.33 (m, 2H), 7.44-7.49 (m, 1H), 7.57 (d, 1H), 7.87 (s, 1H), 8.27 (s, 1H), 8.47 (s, 1H); Mass Spectrum: 430 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 2.24 mmol, 500 mg | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 2.24 mmol, 564 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol | 675 mg, 70% | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=C2C(=NC=N1)NN=C2OCCO | C20H17ClFN5O3
